US05175157
2-[(N-(2-(6,7-Dimethoxy-isoquinol-4-yl)-ethyl)-piperidin-3-yl)-methyl]-6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride
Prepared from 6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline in dimethylsulphoxide with potassium tert.butoxide and 3-chloromethyl-N-[2-(6,7-dimethoxy-isoquinol-4-yl)-ethyl]-piperidine analogously to Example 2.

reactant | 6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline | CC=1C=C2CCNC(C2=CC1C)=O | C11H13NO
reactant | potassium tert.butoxide | CC(C)([O-])C.[K+]
reactant | 3-chloromethyl-N-[2-(6,7-dimethoxy-isoquinol-4-yl)-ethyl]-piperidine | ClCC1CN(CCC1)CCC1=CN=CC2=CC(=C(C=C12)OC)OC | C19H25ClN2O2
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 2-[(N-(2-(6,7-Dimethoxy-isoquinol-4-yl)-ethyl)-piperidin-3-yl)-methyl]-6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride | Cl.Cl.COC=1C=C2C(=CN=CC2=CC1OC)CCN1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)C)C)=O | InChI=1S/C30H37N3O3.2ClH/c1-20-12-23-8-11-33(30(34)27(23)13-21(20)2)19-22-6-5-9-32(18-22)10-7-24-16-31-17-25-14-28(35-3)29(36-4)15-26(24)25;;/h12-17,22H,5-11,18-19H2,1-4H3;2*1H
